US04846875
To stirred fuming nitric acid (200 ml) at 0° C. was added slowly 2,4-dichlorotoluene (50 g, 0.3mole). Upon completion of addition, the reaction mixture was stirred for one hour, then was poured into water (100 ml). A yellow precipitate was collected by filtration to yield 62.0 g of 2,4-dichloro-5-nitrotoluene, m.p. 40°-44° C.

reactant | nitric acid | 200 ml | [N+](=O)(O)[O-] | HNO3
reactant | 2,4-dichlorotoluene | 0.3mole, 50 g | ClC1=C(C=CC(=C1)Cl)C | C7H6Cl2
solvent | water | 100 ml | O | H2O
product | 2,4-dichloro-5-nitrotoluene | 62.0 g | ClC1=C(C=C(C(=C1)Cl)[N+](=O)[O-])C | C7H5Cl2NO2
